US09085555B2
B. (2R,5S)-2-Methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of (2R,5S)-2-hydroxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (500 mg, 1.14 mmol) in CH2Cl2 (5 mL) was added at 0° C. under nitrogen atmosphere Et3N (350 μl, 2.5 mmol) and mesylchloride (197 μl, 2.5 mmol) and the mixture was further stirred at RT for 3 h. CH2Cl2 and HCl 0.1N were added, the layers were separated and the aqueous one re-extracted with CH2Cl2. The crude organic extracts were washed with brine dried over Na2SO4, filtered and concentrated. The crude material was used without further purification in the next step. MS (LC-MS): 517 [MH−Boc]+; tR (HPLC conditions b) 5.15 min.

reactant | (2R,5S)-2-hydroxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.14 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CO | C21H21F3N2O5
reactant | Et3N | 2.5 mmol, 350 μl | CCN(CC)CC | C6H15N
reactant | mesylchloride | 2.5 mmol, 197 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | HCl | 0.1N | Cl | ClH
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,5S)-2-Methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)COS(=O)(=O)C | C22H23F3N2O7S
